US07648989B2
Preparation of 2-[2-(4-Methyl-piperazin-1-yl)-5-nitro-pyridin-4-yl]-acetamide
[2-(4-Methyl-piperazin-1-yl)-5-nitro-pyridin-4-yl]-acetic acid ethyl ester (250 mg, 0.81 mmol) is dissolved in methanol (2.5 ml). An aqueous solution of ammonia (25%, 2.5 ml) is added, and the mixture is warmed to 40° C. for 18 h. TLC analysis indicated complete conversion of the starting material. Solvents are removed, and the residue is purified by FCC (CH2Cl2/MeOH, gradient from 97:3 to 90:10) to afford the title compound. 1H NMR (d6-DMSO, 400 MHz): δ 2.21 (s, 3H), 2.38 (m, 4H), 3.72 (m, 4H), 3.80 (s, 2H), 6.84 (s, 1H), 6.93 (s, broad, 1H), 7.46 (s, broad, 1H), 8.85 (s, 1H). ES+−MS: 280.3 [M+H]+, ES−−MS: 278.3 [M−H]−.

reactant | [2-(4-Methyl-piperazin-1-yl)-5-nitro-pyridin-4-yl]-acetic acid ethyl ester | 0.81 mmol, 250 mg | C(C)OC(CC1=CC(=NC=C1[N+](=O)[O-])N1CCN(CC1)C)=O | C14H20N4O4
reactant | ammonia | 2.5 ml | N | H3N
solvent | methanol | 2.5 ml | CO | CH4O
product | 2-[2-(4-Methyl-piperazin-1-yl)-5-nitro-pyridin-4-yl]-acetamide | CN1CCN(CC1)C1=NC=C(C(=C1)CC(=O)N)[N+](=O)[O-] | C12H17N5O3
